US04921962
Di-(1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Terephthalate
A suspension of 40.0 g (90.0 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) terephthalate, 2.0 g of molybdenum trioxide, and 250 ml of ethylbenzene is heated to 110° C. t-Butyl hydroperoxide (70%, 69.5 g, 540 mmol) is rapidly added. No reaction is visible until water is removed by azeotropic distillation and the internal temperature reaches 115° C. Heating is continued for 6 hours. The nearly colorless reaction mixture is allowed to cool, then filtered and evaporated to yield a pink solid. The solid is recrystallized (9:1 2-propanol:methylene chloride) to yield 48.4 g of the title compound, a white solid, m.p. 150°-152° C. A second crop of 5.3 g is obtained from the mother liquor. Total yield 53.7 g (87% yield).

reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) terephthalate | 90.0 mmol, 40.0 g | C(C1=CC=C(C(=O)OC2CC(NC(C2)(C)C)(C)C)C=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C26H40N2O4
reactant | ethylbenzene | 250 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | t-Butyl hydroperoxide | 540 mmol, 69.5 g | C(C)(C)(C)OO | C4H10O2
reactant | water | O | H2O
catalyst | molybdenum trioxide | 2.0 g | [Mo](=O)(=O)=O
product | Di-(1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Terephthalate | 48.4 g, 87% yield | C(C1=CC=C(C(=O)OC2CC(N(C(C2)(C)C)OC(C2=CC=CC=C2)C)(C)C)C=C1)(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C42H56N2O6
